US04087544
In an analogous manner as described in Example 7, 1-aminomethyl-1-cycloheptane-acetic acid hydrochloride is esterified with n-butanol in the presence of hydrogen chloride to give n-butyl 1-aminomethyl-1-cycloheptane-acetate hydrochloride in the form of a syrup, which is mixed with benzene and an equivalent amount of p-toluene-sulfonic acid. The mixture is evaporated in a vacuum to dryness. After crystallisation from chloroform/ether/hexane n-butyl 1-aminomethyl-1-cycloheptane-acetate .p-toluene-sulfonate is obtained. m.p. 116° - 118° C.

reactant | 1-aminomethyl-1-cycloheptane-acetic acid hydrochloride | Cl.NCC1(CCCCCC1)CC(=O)O
reactant | hydrogen chloride | Cl | ClH
solvent | n-butanol | C(CCC)O | C4H10O
product | n-butyl 1-aminomethyl-1-cycloheptane-acetate hydrochloride | Cl.NCC1(CCCCCC1)CC(=O)OCCCC | InChI=1S/C14H27NO2.ClH/c1-2-3-10-17-13(16)11-14(12-15)8-6-4-5-7-9-14;/h2-12,15H2,1H3;1H
